### PR TITLE
[Merged by Bors] - feat(Tactic/ComputeDegree): add helper lemmas for `compute_degree_le`

### PR DESCRIPTION
**Pull request by adomani**
This PR is a prequel to #5882: it simply adds the helper lemmas about polynomials that the tactic uses.

[Zulip discussion ](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.235882.20.60compute_degree_le.60)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/ComputeDegree.lean [hunk 1]
```diff
@@ -0,0 +1,94 @@
...
+namespace Mathlib.Tactic.ComputeDegree
+
+section mylemmas
+
+variable {R : Type _}
+
+section semiring
+variable [Semiring R]
+
+theorem add {a b : Nat} {f g : R[X]} (hf : natDegree f ≤ a) (hg : natDegree g ≤ b) :
```
Comment (urkud) [inline Mathlib/Tactic/ComputeDegree.lean:29]: IMHO, this can go near `Polynomial.natDegree_add_le`, e.g., under name `Polynomial.natDegree_add_le_of_le`. See `norm_add_le_of_le` for an example of this pattern already in the library.

Same for most of the lemmas below.

File: Mathlib/Tactic/ComputeDegree.lean [hunk 2]
```diff
@@ -0,0 +1,94 @@
...
+theorem mul {a b : Nat} {f g : R[X]} (hf : natDegree f ≤ a) (hg : natDegree g ≤ b) :
+    natDegree (f * g) ≤ a + b :=
+natDegree_mul_le.trans $ add_le_add ‹_› ‹_›
+
+theorem pow {a : Nat} (b : Nat) {f : R[X]} (hf : natDegree f ≤ a) :
+    natDegree (f ^ b) ≤ b * a :=
+natDegree_pow_le.trans (Nat.mul_le_mul rfl.le ‹_›)
+
+theorem C_le (a : R) : natDegree (C a) ≤ 0 := (natDegree_C a).le
+theorem nat_cast_le (n : Nat) : natDegree (n : R[X]) ≤ 0 := (natDegree_nat_cast _).le
```
Comment (urkud) [inline Mathlib/Tactic/ComputeDegree.lean:42]: BTW, do you handle `(2 : R[X])` (a.k.a. `OfNat.ofNat 2 : R[X]`) in your tactic?

Comment (adomani) [reply Mathlib/Tactic/ComputeDegree.lean]: I think so.  It seems that special support in this case only touches `0, 1`:
```lean
example [Semiring R] : natDegree (0 : R[X]) ≤ 0 := by
  compute_degree_le

example [Semiring R] : degree (1 : R[X]) ≤ 0 := by
  compute_degree_le

example [Semiring R] : natDegree (2 : R[X]) ≤ 0 := by
  compute_degree_le

example [Semiring R] : degree (OfNat.ofNat 2 : R[X]) ≤ 0 := by
  compute_degree_le
```
all work with the current tactic.

However, your comment highlighted a bug:
```lean
example [Semiring R] : degree (OfNat.ofNat 0 : R[X]) ≤ 0 := by
  compute_degree_le

example [Semiring R] : degree (OfNat.ofNat 1 : R[X]) ≤ 0 := by
  compute_degree_le
/-
tactic 'apply' failed, failed to unify
  degree ↑?n ≤ 0
with
  degree (OfNat.ofNat 1) ≤ ?b
-/
```
both fail.  I'll investigate this in the other PR.

File: Mathlib/Data/Polynomial/Degree/Definitions.lean [hunk 3]
```diff
@@ -285,6 +285,8 @@ theorem natDegree_nat_cast (n : ℕ) : natDegree (n : R[X]) = 0 := by
   simp only [← C_eq_nat_cast, natDegree_C]
 #align polynomial.nat_degree_nat_cast Polynomial.natDegree_nat_cast
 
+theorem degree_nat_cast_le (n : Nat) : degree (n : R[X]) ≤ 0 := degree_le_of_natDegree_le (by simp)
```
Comment (urkud) [inline Mathlib/Data/Polynomial/Degree/Definitions.lean:288]: Here and below (same for `Int`):
```suggestion
theorem degree_nat_cast_le (n : ℕ) : degree (n : R[X]) ≤ 0 := degree_le_of_natDegree_le (by simp)
```

File: Mathlib/Tactic/ComputeDegree.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Tactic/ComputeDegree.lean]: These `OfNat` instances use `Zero` and `One`, not `Nat.cast`.

**Comment by urkud** [comment]
Thanks! I pushed a minor golf. Feel free to either accept it or revert it.
bors d+

File: Mathlib/Tactic/ComputeDegree.lean (hunk 2 above)
Comment (adomani) [reply Mathlib/Tactic/ComputeDegree.lean]: I think that I fixed this in the main tactic by using `Expr.numeral?` and being more systematic.

I find the new coercion/numeral system somewhat confusing.  Also, I still think that the special support affects `0, 1` in this case, but from `2` onward it *appears* to be uniform.
